US05594112
(1) Synthesis of 2,6-dimethyl-4-acetylphenol
To an ice-cooled solution of 2,6-dimethylphenol (12.2 g, 0.1 mmol) in dichloromethane, anhydrous aluminum chloride (14.4 g) was slowly added with stirring, followed by slow addition of acetyl chloride (9.4 g). The reaction mixture was stirred at 10° C. or below for 1 h, then at room temperature for 3 h. Thereafter, the mixture was poured into ice water. Then, the reaction product was extracted with dichloromethane and the extracted layer was washed with water. Further, the extracted layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized with benzene, giving the desired compound, 2,6-dimethyl-4-acetylphenol in an amount of 1.9 g.

reactant | 2,6-dimethylphenol | 0.1 mmol, 12.2 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | aluminum chloride | 14.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 9.4 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,6-dimethyl-4-acetylphenol | CC1=C(C(=CC(=C1)C(C)=O)C)O | C10H12O2
